US09034866B2
Synthesis of 9-fluoro-10-(3-hydroxy-3-methylbut-1-ynyl)-3-(1-methyl-3-(pyridin-4-yl)-1H-1,2,4-triazol-5-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide
The title compound was prepared similarly according to Procedure E. 10-bromo-9-fluoro-3-(1-methyl-3-(pyridin-4-yl)-1H-1,2,4-triazol-5-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide was reacted with 2-methyl-3-butyn-2-ol to afford 35.3% yield of the titled product. 1H NMR (400 MHz, DMSO) δ 8.73-8.67 (m, 3H), 7.99 (br s, 1H), 7.97-7.93 (m, 2H), 7.47 (br s, 1H), 7.06 (d, J=10.5 Hz, 1H), 5.53 (s, 1H), 4.58-4.52 (m, 2H), 4.38-4.28 (m, 2H), 3.83 (s, 3H), 1.51 (s, 6H). M+H=488.2

reactant | 10-bromo-9-fluoro-3-(1-methyl-3-(pyridin-4-yl)-1H-1,2,4-triazol-5-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide | BrC=1C(=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)N)C3=NC(=NN3C)C3=CC=NC=C3)C1)F | C20H15BrFN7O2
reactant | 2-methyl-3-butyn-2-ol | CC(C)(C#C)O | C5H8O
product | 9-fluoro-10-(3-hydroxy-3-methylbut-1-ynyl)-3-(1-methyl-3-(pyridin-4-yl)-1H-1,2,4-triazol-5-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide | 35.3% yield | FC1=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)N)C3=NC(=NN3C)C3=CC=NC=C3)C=C1C#CC(C)(C)O | C25H22FN7O3
